US06949648B2
4-Chloro-N,3-dimethyl-N-phenyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxamide
A solution of 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid (2.0 g, 7.4 mmol) in phosphorous oxychloride (15 mL, 63 mmol) was heated and stirred at 100° C. for 3 hours. After the solution was cooled to room temperature, the solvent was evaporated under reduced pressure. The residue was dissolved in tetrahydrofuran (50 mL). To the solution, a solution of N-methylaniline (1.0 mL, 9.2 mmol) and triethylamine (5.2 mL, 37 mmol) in tetrahydrofuran (10 mL) was added at 0° C. After the mixture was stirred at room temperature for 1.5 hours, the reaction solvent was evaporated under reduced pressure. Purification of the residue thus obtained by silica gel chromatography (chloroform:methanol=50:1 to 20:1) gave the title compound (2.14 g, 76% yield).

reactant | 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 7.4 mmol, 2.0 g | OC1=C2C(=NC=C1C(=O)O)N(N=C2C)C2=NC=CC=C2 | C13H10N4O3
reactant | phosphorous oxychloride | 63 mmol, 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methylaniline | 9.2 mmol, 1.0 mL | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 37 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Chloro-N,3-dimethyl-N-phenyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxamide | 2.14 g, 76% yield | ClC1=C2C(=NC=C1C(=O)N(C1=CC=CC=C1)C)N(N=C2C)C2=NC=CC=C2 | C20H16ClN5O
